US09079906B2
1-[3-tert-Butyl-4-methoxy-5-(2-methoxyethoxy)phenyl]ethanone
1-(3-tert-Butyl-5-hydroxy-4-methoxyphenyl)ethanone (O3.070; 2.00 g) and 1-bromo-2-methoxyethane (1.5 g) were dissolved in DMF (20 ml), and sodium hydride (259 mg) was added. After stirring at RT for 3 h, the mixture was left to stand overnight. Then the DMF was drawn off and the residue was taken up in EA. The EA phase was washed with water, dried, filtered and concentrated. The residue was purified using silica gel (80 g cartridge, n-heptane/EA 0-40% within 60 min). 1.17 g of the title compound were obtained.

reactant | 1-(3-tert-Butyl-5-hydroxy-4-methoxyphenyl)ethanone | 2.00 g | C(C)(C)(C)C=1C=C(C=C(C1OC)O)C(C)=O | C13H18O3
reactant | 1-bromo-2-methoxyethane | 1.5 g | BrCCOC | C3H7BrO
reactant | sodium hydride | 259 mg | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 1-[3-tert-Butyl-4-methoxy-5-(2-methoxyethoxy)phenyl]ethanone | 1.17 g | C(C)(C)(C)C=1C=C(C=C(C1OC)OCCOC)C(C)=O | C16H24O4
